US09290476B2
6-Bromo-2-methyl-3-(4-(trifluoromethyl)benzyl)quinolin-4-ol
A round-bottomed flask equipped with a Dean-Stark apparatus was charged with ethyl 3-oxo-2-(4-(trifluoromethyl)benzyl)butanoate (7.00 g, 24.3 mmol, Intermediate 57: step a), 4-bromoaniline (4.20 g, 24.2 mmol), para-toluenesulfonic acid (0.418 g, 2.4 mmol), and toluene (121 mL). The mixture was heated to 125° C. After 16 h, the flask was cooled to room temperature. The toluene was removed by rotary evaporation to provide an orange colored solid. A mixture of the solid and diphenyl ether (48.4 mL) was heated to 220° C. After 60 min, the mixture was cooled to room temperature at which point a yellow solid crashed out of solution. Hexanes (150 mL) were added. The whole was filtered through paper, rinsing with hexanes. The yellow solids were collected, dried, and then used in the next step without further purification.

reactant | ethyl 3-oxo-2-(4-(trifluoromethyl)benzyl)butanoate | O=C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)C | C14H15F3O3
reactant | 4-bromoaniline | 24.2 mmol, 4.20 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | para-toluenesulfonic acid | 2.4 mmol, 0.418 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diphenyl ether | 48.4 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | toluene | 121 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-2-methyl-3-(4-(trifluoromethyl)benzyl)quinolin-4-ol | BrC=1C=C2C(=C(C(=NC2=CC1)C)CC1=CC=C(C=C1)C(F)(F)F)O | C18H13BrF3NO
